US07301036B2
Step A. Methyl 4-{[(2-amino-4,5-dichlorophenyl)amino]methyl}benzoate
4,5-Dichloro-2-nitroaniline (10 mmol, 2.07 g), 4-bromomethylbenzoate (10 mmol, 2.29 g) and K2CO3 (12 mmol, 1.66 g) were stirred in DMF (10 mL) at ambient temperature for 16 h. The reaction mixture was partitioned between CH2Cl2 and brine, and the organic phase was dried with Na2SO4 and concentrated in vacuo. The monobenzylated product was obtained by flash chromatography on silica eluting with 15% EtOAc in hexanes as a bright orange solid. A portion of the nitro compound (7.4 mmol, 2.6 g) and SnCl2.2 H2O (22 mmol, 5.0 g) were heated in 40 mL of DMF at 40° C. for 16 h. The reaction mixture was poured into EtOAc and saturated NaHCO3 and stirred to afford a precipitate, which was removed by filtration through celite. The organic phase was dried with Na2SO4 and concentrated in vacuo to a brown oil. Flash chromatography on silica eluting with a step gradient of 20%, 30% and 35% EtOAc in hexanes provided the product as a pale yellow solid. LC-MS (ESI, Method C) 3.54 min, m/z 325.2 (M+1).

reactant | 4,5-Dichloro-2-nitroaniline | 10 mmol, 2.07 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 4-bromomethylbenzoate | 10 mmol, 2.29 g | BrCC1=CC=C(C(=O)[O-])C=C1
reactant | K2CO3 | 12 mmol, 1.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | SnCl2 | Cl[Sn]Cl
reactant | H2O | 22 mmol, 5.0 g | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-{[(2-amino-4,5-dichlorophenyl)amino]methyl}benzoate | NC1=C(C=C(C(=C1)Cl)Cl)NCC1=CC=C(C(=O)OC)C=C1 | C15H14Cl2N2O2
